US08048899B2
Synthesis of 2-Methyl-N-[3-(1-methyl-1-methylcarbamoyl-ethyl)-isoxazol-5-yl]-2-(tetrahydro-pyran-4-sulfonyl)-propionamide (Example 46)
2 Methyl amine (2M solution in THF, 0.125 mL, 0.25 mmol) is added to a solution of 2-Methyl-2-{5-[2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionylamino]-isoxazol-3-yl}-propionic acid (50 mg, 0.13 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (57 mg, 0.15 mmol) in DMF (1 mL), followed by the addition of N,N-diisopropylethylamine (0.056 mL, 0.32 mmol). The reaction mixture is stirred at room temperature for 65 h. After this time, more 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (100 mg, 0.26 mmol) and methylamine (2M solution in THF, 0.125 mL, 0.25 mmol) are added to the reaction mixture. The reaction mixture is stirred for 1 hour at room temperature. After this time, the reaction mixture is diluted with water and extracted with ethyl acetate twice. The combined organic extracts are washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. Purification by preparative LC-MS affords 12 mg of the title compound. Yield: 23%; m/z 402 [M+H].

reactant | Methyl amine | 0.25 mmol, 2M, 0.125 mL | CN | CH5N
reactant | 2-Methyl-2-{5-[2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionylamino]-isoxazol-3-yl}-propionic acid | 0.13 mmol, 50 mg | CC(C(=O)O)(C)C1=NOC(=C1)NC(C(C)(S(=O)(=O)C1CCOCC1)C)=O | C16H24N2O7S
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.15 mmol, 57 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 0.32 mmol, 0.056 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.26 mmol, 100 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | methylamine | 0.25 mmol, 2M, 0.125 mL | CN | CH5N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Methyl-N-[3-(1-methyl-1-methylcarbamoyl-ethyl)-isoxazol-5-yl]-2-(tetrahydro-pyran-4-sulfonyl)-propionamide | 12 mg, Yield: 23% | CC(C(=O)NC1=CC(=NO1)C(C)(C(NC)=O)C)(C)S(=O)(=O)C1CCOCC1 | C17H27N3O6S
